US07645760B2
c) (E)-3-(4-Chloro-2-methanesulfonylamino-5-methoxyphenyl)-acrylic acid
(E)-3-(4Chloro-2-methanesulfonylamino-5-methoxyphenyl)-acrylic acid ethyl ester (320 mg; 0.96 mmol) was refluxed in 2N NaOH/EtOH 1/10 for 10 min. The resulting suspension was cooled to 0° C., filtered, taken up in water and acidified with 2N HCl and extracted with TBME three times. The combined organic phases were dried over Na2SO4 and evaporated to dryness to yield the title compound as yellowish crystals (114 mg; 39%).

reactant | (E)-3-(4Chloro-2-methanesulfonylamino-5-methoxyphenyl)-acrylic acid ethyl ester | 0.96 mmol, 320 mg | C(C)OC(\C=C\C1=C(C=C(C(=C1)OC)Cl)NS(=O)(=O)C)=O | C13H16ClNO5S
solvent | NaOH EtOH | 2N | [OH-].[Na+].CCO
product | (E)-3-(4-Chloro-2-methanesulfonylamino-5-methoxyphenyl)-acrylic acid | 114 mg, 39% | ClC1=CC(=C(C=C1OC)/C=C/C(=O)O)NS(=O)(=O)C | C11H12ClNO5S
